US06699954B2
10 mmol of 2,5-dimethylhydroquinone in 25 mL of chlorobenzene, 20 mmol of 1-bromo-5,8,11-trioxadodecane, 20 mmol of sodium hydroxide in the form of a 50% aqueous solution are reacted in the presence of a phase transfer catalyst, tetrabutylammonium bromide. The 1,4-dimethyl-2,5-bis(5,8,11-trioxadodecyloxy)benzene thus obtained is purified by chromatography. 1,4-bis(Bromomethyl-2,5-bis(5,8,11-trioxadodecyloxy)benzene is obtained by treatment with two equivalents of N-bromosuccinimide. Duplicative elimination by potassium tert-butoxide in THF gives the polymer.

reactant | 2,5-dimethylhydroquinone | 10 mmol | CC1=C(O)C=C(C(=C1)O)C | C8H10O2
reactant | 1-bromo-5,8,11-trioxadodecane | 20 mmol | BrCCCCOCCOCCOC | C9H19BrO3
reactant | sodium hydroxide | 20 mmol | [OH-].[Na+]
solvent | chlorobenzene | 25 mL | ClC1=CC=CC=C1 | C6H5Cl
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,4-dimethyl-2,5-bis(5,8,11-trioxadodecyloxy)benzene | CC1=C(C=C(C(=C1)OCCCCOCCOCCOC)C)OCCCCOCCOCCOC | C26H46O8
